US05015678
Bis(1-[2-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
The title compound is prepared from 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate and bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate according to the general procedure of Example 2.

reactant | 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate | C(C=C)(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C13H23NO3
reactant | bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
product | Bis(1-[2-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C54H98N4O12
